US20010016207A1
D. 4-(1-Propyl-piperadin-4-yl)-benzoic acid methyl ester
4-Piperidin-4-yl-benzoic acid methyl ester (28 mmol), ethyldiisopropylamine (31 mol) and 1-iodopropane (42 mmol) are dissolved in 1,2-dimethoxyethane (100 ml) and the mixture is heated at 70° C. overnight. After evaporation of the solvent, the residue is dissolved in a mixture of water and sodium carbonate (to ensure basic conditions) and extracted three times with ethyl acetate. The combined extract is dried over sodium sulfate and evaporated. The residue is purified by flash chromatography on silica gel with CH2Cl2/MeOH=9:1 as mobile phase. The product containing fractions are combined and evaporated. The residue is suspended in diethylether and the solid filtered of and dried (vacuum). A pale brown powder with Rf=0.35 (CH2Cl2/MeOH=9:1) is obtained.

reactant | 4-Piperidin-4-yl-benzoic acid methyl ester | 28 mmol | COC(C1=CC=C(C=C1)C1CCNCC1)=O | C13H17NO2
reactant | ethyldiisopropylamine | 31 mol | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-iodopropane | 42 mmol | ICCC | C3H7I
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
product | 4-(1-Propyl-piperadin-4-yl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C1CCN(CC1)CCC)=O | C16H23NO2
